US05726306
A mixture of 7.6 g of 2-chloro-4-methoxycarbonyl valeric acid, 9.2 ml of thionyl chloride and 30 ml of toluene was stirred for 30 minutes at 80° C., followed by distilling off the solvent under reduced pressure to leave 2-chloro-4-methoxycarbonyl butyryl chloride. A mixture of this compound, 5.0 g of 2-benzylaminobenzophenone, 100 ml of ethyl acetate and 100 ml of a saturated aqueous solution of sodium hydrogencarbonate was stirred for 30 minutes at room temperature. The ethyl acetate layer was washed with water and dried over anhydrous magnesium sulfate, then the solvent was distilled off under reduced pressure. The residue was purified by means of a silica gel column chromatography (eluent, hexane:ethyl acetate=5:1) to give 1.2 g of 2-[N-benzyl-N-(2-chloro-4-methoxycarbonyl)butyryl]aminobenzophenone as an oily product.

reactant | 2-chloro-4-methoxycarbonyl valeric acid | 7.6 g | ClC(C(=O)O)CC(C)C(=O)OC | C7H11ClO4
reactant | thionyl chloride | 9.2 ml | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 2-chloro-4-methoxycarbonyl butyryl chloride | ClC(C(=O)Cl)CCC(=O)OC | C6H8Cl2O3
